US06197748B1
Preparation of Boc-(D)-Arg(Cbz2)-Gly-OH
To a solution of Boc-(D)-Arg(Cbz2)-OSu (1 g, 1.6 mmol) in dioxane (10 mL) was added a solution of Gly (300 mg, 4 mmol) and NaHCO3 (400 mg, 4.76 mmol) in water (10 mL). The solution was stirred for 24 h. Solvents were evaporated and residue was dissolved in a mixture of EtOAc (20 mL) and 1 N HCl (6 mL). The separated organic layer was washed with sat. NaCl (10 mL), dried over MgSO4, filtered and evaporated to give a solid residue which was used directly without further purification. ES-MS (M+H)+=600

reactant | Boc-(D)-Arg(Cbz2)-OSu | 1.6 mmol, 1 g | N([C@H](CCCNC(N(C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)=N)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C31H37N5O10
reactant | Gly | 4 mmol, 300 mg | NCC(=O)O | C2H5NO2
reactant | NaHCO3 | 4.76 mmol, 400 mg | C(=O)(O)[O-].[Na+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
product | Boc-(D)-Arg(Cbz2)-Gly-OH | N([C@H](CCCNC(N(C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)=N)C(=O)NCC(=O)O)C(=O)OC(C)(C)C | C29H37N5O9
